US06326369B1
Ethyl 2-(4-hydroxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate
An ethanol (5.0 ml) suspension of ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate (105 mg, 0.213 mmols) and 10% palladium-carbon (32 mg) was stirred under a hydrogen pressure of one atmosphere at room temperature for 4 hours. The palladium-carbon was removed by filtration, and the filtrate was concentrated in vacuo to obtain the entitled compound (81.5 mg) as an oil.

reactant | ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 0.213 mmols, 105 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C29H32O7
catalyst | palladium-carbon | 32 mg | [C].[Pd]
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | Ethyl 2-(4-hydroxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 81.5 mg | OC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C22H26O7
